US07495003B2
(R)-1-(4-methyl-quinazolin-2-ylmethyl)-3-(hydroxycarbonylmethyl)-7-(but-2-ynyl)-8-(3-amino-piperidin-1-yl)-xanthine
2 ml of 1 M sodium hydroxide solution are added to a solution of 150 mg of (R)-1-(4-methyl-quinazolin-2-ylmethyl)-3-(methoxycarbonylmethyl )-7-(but-2-ynyl)-8-(3-amino-piperidin-1-yl)-xanthine in 6 ml of tetrahydrofuran/water/methanol (1:1:1). The solution is stirred for 1 h at ambient temperature and then neutralised with 1 M hydrochloric acid. The solution is evaporated to dryness and purified by HPLC (YMC-C18) with water/acetonitrile (70:30).

reactant | sodium hydroxide | 1 M, 2 ml | [OH-].[Na+]
reactant | (R)-1-(4-methyl-quinazolin-2-ylmethyl)-3-(methoxycarbonylmethyl )-7-(but-2-ynyl)-8-(3-amino-piperidin-1-yl)-xanthine | 150 mg | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N)CC(=O)OC | C27H30N8O4
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | tetrahydrofuran water methanol | 6 ml | O1CCCC1.O.CO
product | (R)-1-(4-methyl-quinazolin-2-ylmethyl)-3-(hydroxycarbonylmethyl)-7-(but-2-ynyl)-8-(3-amino-piperidin-1-yl)-xanthine | CC1=NC(=NC2=CC=CC=C12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)N1C[C@@H](CCC1)N)CC(=O)O | C26H28N8O4
